US05646173
An ozone stream (3 g ozone/hour) was conducted while stirring for 1 hour through a solution, cooled to -70°, of 6.25 g of (RS)-2-(2-buten-1-yl)-7-methoxy-4-chromanone in 90 ml of anhydrous dichloromethane and 30 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 15 minutes. After the addition of 3 ml of dimethyl sulfide, the mixture was stirred at room temperature for 16 hours. The reaction mixture was subsequently evaporated in a vacuum. The residue was treated with 60 ml of dichloromethane and, after the addition of 15 ml of water and 15 ml of trifluoroacetic acid, stirred at room temperature for 3 hours. The mixture was subsequently poured into 100 ml of water and neutralized while stirring by the spatula-wise addition of sodium hydrogen carbonate. An additional 70 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 100 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. 2.9 g (49%) of 2-(2-oxoethyl)-7-methoxy-4-chromanone were obtained as a yellow oil.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-7-methoxy-4-chromanone | 6.25 g | C(C=CC)C1OC2=CC(=CC=C2C(C1)=O)OC | C14H16O3
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
product | 2-(2-oxoethyl)-7-methoxy-4-chromanone | 2.9 g, 49% | O=CCC1OC2=CC(=CC=C2C(C1)=O)OC | C12H12O4
